US07642264B2
2-(4-Bromo-thiophen-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine (example A.31) (4.0 g, 9.36 mmol) and commercially available 2,4-dibromothiophene (2.518 g, 10.41 mmol) according to the general procedure IVc protocol b. Obtained as a white solid (2.12 g, 54%). MS (ISP) 398.0 [(M+H)+] and 400.0 [(M+2+H)+].

reactant | 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine | 9.36 mmol, 4.0 g | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
reactant | 2,4-dibromothiophene | 10.41 mmol, 2.518 g | BrC=1SC=C(C1)Br | C4H2Br2S
product | 2-(4-Bromo-thiophen-2-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | BrC=1C=C(SC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11BrF3NS
